US03950353
N-Methyl-N'-[2-((4-methyl-5-oxazolyl)methylthio)ethyl]urea
Reacting 5-[(2-aminoethyl)thiomethyl]-4-methyloxazole with methyl isocyanate by the procedure of Example 24 gives the title compound.

reactant | 5-[(2-aminoethyl)thiomethyl]-4-methyloxazole | NCCSCC1=C(N=CO1)C | C7H12N2OS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[2-((4-methyl-5-oxazolyl)methylthio)ethyl]urea | CNC(=O)NCCSCC1=C(N=CO1)C | C9H15N3O2S
